US04452990
Five grams of dihydro 1H-pyrrolizine-3,5(2H, 6H) dione is dissolved in 31 g of o-chlorobenzyl alcohol and 0.2 ml of concentrated hydrochloric acid is added. The solution is heated at 100° C. for 71 hours. The mixture is cooled and dissolved in 150 ml of anhydrous diethylether. The solution is cooled to induce crystallization and the resulting crystals are isolated by filtration. Recrystallization from toluene-diethyl ether yields 5-oxo-2-pyrrolidinepropanoic acid o-chlorobenzyl ester with a melting point of 99°-100° C.

reactant | dihydro 1H-pyrrolizine-3,5(2H, 6H) dione | Five grams | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | o-chlorobenzyl alcohol | 31 g | ClC1=C(CO)C=CC=C1 | C7H7ClO
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
product | 5-oxo-2-pyrrolidinepropanoic acid o-chlorobenzyl ester | ClC1=C(COC(CCC2NC(CC2)=O)=O)C=CC=C1 | C14H16ClNO3
